US08207164B2
a) 1-(3-Bromo-phenyl)-2,2-difluoro-ethanone
1-Bromo-3-iodo-benzene (22.5 g, 90 mmol, Aldrich) was dissolved in THF and cooled to −78° C. nBuLi (69.8 ml, 90 mmol) was added over 15 minutes and the reaction was stirred for 30 min. at −78° C. Difluoro-acetic acid ethyl ester (16.59 ml, 153 mmol, Aldrich) was added dropwise and stirring was continued for 3 hrs. After completion the reaction was quenched by the addition of 329 ml 2 M HCl solution and reaction was warmed to r.t. The phases were separated and the aqueous phases was extracted with Et2O. The organic phases were washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by automated column chromatography (cyclohexane/ethyl acetate) to yield the title compound as a yellow oil. 1H-NMR (360 MHz, DMSO-d6): 8.18 (s, 1H), 8.02 (m, 2H), 7.61 (t, 1H), 7.21 (t, 1H, CHF2); GC/MS: 234 [(M+H)+].

reactant | 1-Bromo-3-iodo-benzene | 90 mmol, 22.5 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | nBuLi | 90 mmol, 69.8 ml | [Li]CCCC
reactant | Difluoro-acetic acid ethyl ester | 153 mmol, 16.59 ml | C(C)OC(C(F)F)=O | C4H6F2O2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-Bromo-phenyl)-2,2-difluoro-ethanone | BrC=1C=C(C=CC1)C(C(F)F)=O | C8H5BrF2O
